Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Abdominal pain, Weight loss, Left kidney mass
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ is a ___ man with no PMH who presents with weight
loss and new abdominal mass. He was seen at an Urgent Care 
clinic
and was told to go to the ED. 

He reports lost 60 pounds in last 6 months unintentionally, with
a significantly decreased appetite. Over the past 5 days he has
not eaten much; he tried to eat toast but became nauseated. He
reports the nausea has been worsening; he has been vomiting 
every
day for 2 months, prior to that about ___ times a week for a few
months. The nausea and vomiting are bothersome and frustrating 
to
him. He reports has been taking care of his mother, who has
medical problems, and as a result putting of his own health. He
does not have a PCP and does not see a doctor regularly. 

He denies any urinary symptoms recently, including hematuria, 
and
also denies fever, night sweats, chills, chest pain, cough,
dysuria, blurry vision, numbness, difficulty walking, or 
swelling
of the testicles. 

The pt reports that he has had kidney stones in the past,
starting about ___ years ago.  He went to an urgent care clinic 
for
this.  He states he has passed many kidney stones over the past
few years. He reports moderate pain (never took any pain meds
for) with these episodes and hematuria. The last time he had an
episode like this was about ___ years ago. He has not had any
hematuria since then. 

In the ED, initial vitals:  
97.7 92 158/85 20 100% RA

- Exam notable for:  
palpable LUQ mass, tender

- Labs notable for:  
H/H: 11.5/ 36.2
WBC 11.5
Alk phos: 217
Cr 1.6 (unclear baseline)

UA negative, no hematuria

- Imaging notable for: 
___: 
CT Abd & Pelvis With Contrast
CT Chest W/Contrast 
1. Large heterogeneously enhancing mass arising from the left
kidney measuring
up to 16 cm in size worrisome for renal cell carcinoma. Adjacent
retroperitoneal adenopathy and pulmonary nodules worrisome for
metastatic disease.
2. Subcentimeter hepatic lesions which are incompletely
characterized. While these may represent cysts or hamartomas,
metastasis is not excluded.
3. Lucent lesion in the right acetabulum, potentially
degenerative noting that metastasis is not entirely excluded.
4. Mild splenomegaly.

- Pt given:  
Zofran 4mg x2
Morphine 4mg x2
IV NS

- Vitals prior to transfer:  
 98.0 66 155/96 19 96% RA 
 
Upon arrival to the floor, the patient reports that he is not in
any pain as he got morphine in the ED.  He is accompanied by his
son, ___. 
 
Past Medical History:
Nephrolithiasis

 
Social History:
___
Family History:
-Mother with HTN, pacemaker. 
-MGma with cancer, pt doesn't know what kind. 
-Son is healthy. 
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
========================
VITALS:   98.6 PO 178/92 R Lying 71 18 98 RA 
General: Pleasant and cooperative. Alert, oriented, no acute
distress.  
HEENT: Sclerae anicteric, MMM, oropharynx clear, EOMI, PERRL,
neck supple, JVP not elevated, no LAD  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs,
gallops  
Lungs: Clear to auscultation bilaterally, no wheezes, rales,
rhonchi.  
Abdomen: Tender in the LUQ, large firm mass palpable. normal BS. 

GU: No foley  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or
edema. Prominent varicose veins on the L distal ___. 
Skin: Warm, dry, no rashes or notable lesions.   
Neuro: CNII-XII intact, ___ strength upper/lower extremities,
grossly normal sensation, 2+ reflexes bilaterally. 

DISCHARGE PHYSICAL EXAM:
========================
VITALS: 98.6 | 170/84 | 74 | 18 | 98 RA
General: Pleasant and cooperative. Alert, oriented, no acute
distress.  Resting in bed with family around bed.
HEENT: Sclerae anicteric, MMM, oropharynx clear, EOMI, PERRL,
neck supple, JVP not elevated, no LAD  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs,
gallops  
Lungs: Clear to auscultation bilaterally, no wheezes, rales,
rhonchi.  
Abdomen: Midline/LUQ abdominal tenderness overlying a large, 
firm, mobile palpable mass. Normal BS. 
GU: No foley  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or
edema. Prominent varicose veins on the L distal ___. 
Skin: Warm, dry, no rashes or notable lesions.   
Neuro: CNII-XII intact, ___ strength upper/lower extremities,
grossly normal sensation, 2+ reflexes bilaterally.   

 
Pertinent Results:
ADMISSION LABS:
===============
___ 10:04PM   UREA N-17 CREAT-1.5*
___ 10:04PM   ALBUMIN-3.9 CALCIUM-12.3*
___ 01:30PM URINE  HOURS-RANDOM
___ 01:30PM URINE  UHOLD-HOLD
___ 01:30PM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 01:30PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-7.0 
LEUK-NEG
___ 10:53AM   ___ PTT-34.6 ___
___ 10:29AM   GLUCOSE-112* UREA N-19 CREAT-1.6* SODIUM-138 
POTASSIUM-4.0 CHLORIDE-95* TOTAL CO2-21* ANION GAP-22*
___ 10:29AM   estGFR-Using this
___ 10:29AM   ALT(SGPT)-24 AST(SGOT)-16 ALK PHOS-217* TOT 
BILI-0.4
___ 10:29AM   LIPASE-25
___ 10:29AM   ALBUMIN-4.2 CALCIUM-13.5* PHOSPHATE-2.0* 
MAGNESIUM-2.0
___ 10:29AM   WBC-11.5* RBC-4.48* HGB-11.5* HCT-36.2* 
MCV-81* MCH-25.7* MCHC-31.8* RDW-15.0 RDWSD-44.0
___ 10:29AM   NEUTS-77.2* LYMPHS-12.8* MONOS-8.2 EOS-0.5* 
BASOS-0.5 IM ___ AbsNeut-8.89* AbsLymp-1.47 AbsMono-0.95* 
AbsEos-0.06 AbsBaso-0.06
___ 10:29AM   PLT COUNT-461*

DISCHARGE LABS:
===============
WBC 8.1 Hgb 10.3 Hct 32.1 Plt 335
Na 138 K 3.8 Cl 97 HCO3 26 BUN 13 Cr 1.5
INR 1.2 PTT 34.6
Ca ___ Mg 2.0 Phos 2.4
AST 16 ALT 24 Alk Phos 217 TBili 0.4
Iron 40 TIBC 260 Ferritin 384 Transferrin 200
HbA1c 5.7
GGT 133

IMAGING:
========
CT CAP (___):
IMPRESSION:
1. Large heterogeneously enhancing mass arising from the left 
kidney measuring
up to 16 cm in size worrisome for renal cell carcinoma.  
Adjacent
retroperitoneal adenopathy and pulmonary nodules worrisome for 
metastatic
disease.
2. Subcentimeter hepatic lesions which are incompletely 
characterized.  While
these may represent cysts or hamartomas, metastasis is not 
excluded.
3. Lucent lesion in the right acetabulum, potentially 
degenerative noting that
metastasis is not entirely excluded.
4. Mild splenomegaly.

 
Brief Hospital Course:
___ is a ___ with a history of nephrolithiasis, 
not followed medically, who presented with 6 months of nausea, 
vomiting, a 60 pound weight loss, and tender abdominal mass, 
found on CT to have a 16 cm heterogeneously enhancing mass with 
retroperitoneal adenopathy, pulmonary/acetabular/hepatic 
lesions, and an elevated Alk Phos most concerning for metastatic 
renal cell carcinoma.

ACTIVE ISSUES:
===============================
#LEFT RENAL MASS:
Likely RCC with CT findings, elevated alk phos and serum calcium 
concerning for metastases. Ddx includes secondary metastasis of 
the kidney with undiagnosed primary, albeit less likely. Patient 
demonstrated understanding of options and consequences, 
expressed decision to defer further diagnostic and therapeutic 
management. Diagnostic work up would include CT-guided renal 
biopsy to confirm diagnosis and inform oncologic work up 
regarding potential treatment with directed biologics vs 
chemotherapy. Urology c/s with role to perform 
cytoreductive/palliative nephrectomy. Per patient wishes, after 
extensive conversation regarding options and scenarios with 
attending physician, Dr ___, currently deferred work up 
with symptomatic treatment only. Pain was managed with 
acetaminophen and oxycodone. Zofran was given for nausea. 
Palliative care and social work consults were sought, but not 
completed as patient was discharged prior to staffing 
availability.

#HYPERCALCEMIA:
Presentation with nausea, vomiting, and confusion concerning for 
symptomatic hypercalcemia. Calcium of 13.5 on admission. 
Downtrended to 11.5 after generous fluid resuscitation with 2L 
of LR.Improvement in nausea/vomiting/confusion on discharge. 
Normal albumin. Likely Overproduction of parathyroid 
hormone-related protein (hypercalcemia of malignancy) vs less 
likely lytic bone metastasis. Deferred bone scan for now for 
evaluation of bony metastasis. PCP may consider bisphosphonate 
therapy for symptomatic management of moderate hypercalcemia or 
calcitonin for hypercalcemia >14.

#ANEMIA:
Normocytic with iron studies showing Fe low, Ferritin high 
normal, Transferrin low normal, IBC low normal, suggestive of 
anemia of chronic disease in the setting of likely malignancy.

#HYPERTENSION:
Not previously diagnosed; SBPs up to 170s. No intervention.

TRANSITIONAL ISSUES:
===================
[ ] Continue to follow symptomatically for pain and nausea.
[ ] Continue to monitor calcium levels, contributing to the 
patient's nausea and confusion. Consider bisphosphonate or 
calcitonin therapy for hypercalcemia. Ensure patient is drinking 
a lot of water.
[ ] Please help set up home ___ for the patient to assist with 
symptom control, ensure that he is drinking enough water for his 
hypercalcemia, etc. (This was not set up at discharge since the 
we did not know the patient's new PCP name yet, and he was 
discharged on a ___
[ ] Please help set the patient up with an oncologist to at 
least discuss what treatment options are available
[ ] Refill pain and anxiety medications as needed.
[ ] Follow up blood pressure. Treat if symptomatic. 
 
Medications on Admission:
None
 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q4H:PRN Pain - Mild 
RX *acetaminophen 650 mg 1 tablet(s) by mouth every four (4) 
hours Disp #*180 Tablet Refills:*0 
2.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 tablet(s) by mouth twice a day Disp 
#*60 Tablet Refills:*0 
3.  LORazepam 0.5 mg PO Q8H:PRN nausea, anxiety 
RX *lorazepam 0.5 mg 1 tablet by mouth every eight (8) hours 
Disp #*45 Tablet Refills:*0 
4.  Ondansetron ODT ___ mg PO Q8H:PRN nausea  
RX *ondansetron 4 mg 1 to 2 tablet(s) by mouth every eight (8) 
hours Disp #*180 Tablet Refills:*0 
5.  OxyCODONE (Immediate Release) 5 mg PO Q4H:PRN pain 
RX *oxycodone 5 mg 1 tablet(s) by mouth every four (4) hours 
Disp #*90 Tablet Refills:*0 
6.  Senna 8.6 mg PO BID Constipation 
RX *sennosides [senna] 8.6 mg 1 tablet by mouth twice a day Disp 
#*60 Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary: Weight loss, pain, abdominal mass, hypercalcemia
Secondary: Hypertension, anemia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

WHY WERE YOU ADMITTED?:
You were admitted to ___ for abdominal pain, weight loss, and 
a left kidney mass.

WHAT HAPPENED WHILE YOU WERE IN THE HOSPITAL?: 
- We found a mass on your left kidney, which likely represents 
cancer.
- We found that you have a high blood level of calcium.
- We treated your high blood calcium, pain, and nausea, which 
are likely secondary to your mass.
- We had an extensive conversation regarding your options and 
likely scenarios.
- Following your wishes, we did not pursue further diagnostic 
work up of your mass.

WHAT TO DO WHEN YOU LEAVE THE HOSPITAL: 
- Please continue to take the medication we have prescribed for 
pain and nausea.
- Please review your medication list for any changes, listed 
below.
- Please keep drinking a lot of water to dilute your calcium 
levels
- We will schedule an appointment with a new primary care doctor 
on ___ for you and then call you to let you know who it is. 
He or she will continue to take care of you for pain and nausea 
and coordinate any additional services.
- If you develop light headedness, shortness of breath, chest 
pain, or bloody urination, please see a doctor.

It was a pleasure caring for you. Please follow up with your 
primary care doctor below. 

Wishing you the best,
Your ___ Team
 
Followup Instructions:
___